US06562847B1
Step (c): 3-(3-Azetidinyloxy)-pyridine
To 160 mg (0.64 mmol) of 3-(1-t-butoxycarbonyl-3-azetidinyloxy)-pyridine was added 6 mL of solution containing 3 mL of TFA and 3 mL of CH2Cl2 at ice-bath temperature. The reaction solution was slowly warmed to room temperature and allowed to stir 50 min at room temperature. After 50 min, solvents were removed in vacuo and the crude product was purified by flash chromatography (9:1:0.05, CHCl3:MeOH:conc. NH4OH) to obtain 62 mg (67%) of a white solid: 1H NMR (300 MHz, CD3OD) δ8.23 (2H, br s), 7.38 (2H, br d), 5.24 (2H, br s), 4.58 (2H, br d), 4.20 (2H, br d, J=9.8 Hz); Mass spectrum (ESI) m/z 151.7 (M+H+).

reactant | 3-(1-t-butoxycarbonyl-3-azetidinyloxy)-pyridine | 0.64 mmol, 160 mg | C(C)(C)(C)OC(=O)N1CC(C1)OC=1C=NC=CC1 | C13H18N2O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Azetidinyloxy)-pyridine | 62 mg, 67% | N1CC(C1)OC=1C=NC=CC1 | C8H10N2O
